US06147090
6-Fluoro-2-methyl4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline.
6-Fluoro-2-methyl-4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester (3.0 g, 7.9 mmol) was combined with 250 mg of 10% Pd/C in 50 mL of ethanol and agitated under a hydrogen atmosphere (40 psi) for 1 hour before being filtered through Celite®, rinsing with ethyl acetate, and evaporating the volatiles under reduced pressure to afford 1.34 (69%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ 1.4 (d, 3H), 2.5 (dd, 1H), 2.7 (dd, 1H), 3.7-3.9 (m, 1H), 4.4 (bs, 1H), 6.9 (d, 1H), 7.6 (d, 1H).

reactant | 6-Fluoro-2-methyl-4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 7.9 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C2=CC(=C(C=C12)C(F)(F)F)F)=O)C | C19H15F4NO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 6-Fluoro-2-methyl4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline | FC=1C=C2C(CC(NC2=CC1C(F)(F)F)C)=O | C11H9F4NO
